US06531502B1
2,2-Dimethyl-6-formylchromane (commercially available) was condensed with 5-bromo-2-oxindole to give 0.3 g of 5-bromo-3-(2,2-dimethylchroman-6-ylmethylene)-1,3-dihydroindol-2-one as a yellow-orange solid.

reactant | 2,2-Dimethyl-6-formylchromane | CC1(OC2=CC=C(C=C2CC1)C=O)C | C12H14O2
reactant | 5-bromo-2-oxindole | BrC=1C=C2CC(NC2=CC1)=O | C8H6BrNO
product | 5-bromo-3-(2,2-dimethylchroman-6-ylmethylene)-1,3-dihydroindol-2-one | 0.3 g | BrC=1C=C2C(C(NC2=CC1)=O)=CC=1C=C2CCC(OC2=CC1)(C)C | C20H18BrNO2
